Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ hx of dilated cardiomyopathy (EF 40-45% in ___, 
refractory HTN, DM2, who presented s/p witnessed syncopal 
episode at church today.  He stated that he was wearing many 
layers of clothing and felt hot, became diaphoretic. He felt hot 
and sweaty for ~ 10  minutes. Then he syncopized. Witnesses 
state that he lost consciousness x1 min, but patient does not 
recall losing consciousness. No head trauma or seizure activity, 
per report. Pt denied chest pain or palpitations. No nausea or 
abdominal pain before episode, no recent sickness, no recent 
decreased PO. Patient notes that he had not eaten much this 
morning - 2 pieces of toast before church - episode happened 
~11:30 AM. He was transferred to ED by EMS, who found blood 
sugar to be 149. Per EMS report, EKG showed flipped t waves and 
PVCs. He has never had these symptoms in the past. 
.  
In the ED, initial vitals were as follows: T 97 HR 96 BP 134/77 
RR 18 O2sat 100%RA. EKG on presentation showed possible slow 
Afib vs. more likely sinus arrhythmia, no acute ischemic 
changes, but pt appeared to flip back and forth between ?Afib 
and sinus rhythm.  When in sinus rhythm, rhythm strip showed ___ 
degree A-V block.  Pt was comfortable, was noted to have normal 
physical exam, lungs clear. CXR negative for pneumonia or acute 
process. First troponin negative in ED.  Vitals prior to 
transfer to floor were as follows: 98.1  69  117/75 16 100%RA.  
.
On the floor, VS 96.9  138/88   75   18  99% on 2L; ___ 178. 
Generally, the patient appears well and is oriented and 
pleasant. He denies dizziness, palpitations, and chest pain. He 
is able to walk at least ___ yards without SOB and uses no cane 
or walker. He denies PND. No ___ swelling.  
. 
Review of sytems:  
(+) Per HPI  - 
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied cough, shortness of 
breath. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, constipation or abdominal pain. No 
recent change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  
 
Past Medical History:
Hypertension:  MRI negative for renal artery stenosis in past.
Dilated cardiomyopathy-  EF 40%, diagnosed in ___.
Diabetes mellitus-  HbA1c of 6.8% in ___ recently d/c'd 
glipizide
Venous stasis ulcers:  s/p surgery in ___
Erectile dysfunction
 
Social History:
___
Family History:
Mother with DM. No colon or prostate cancer.
 
Physical Exam:
On admission: 
VS: 96.9  138/88   75   18  99% on 2L  
GENERAL:  Sitting up in bed. Oriented x3. Can state name of days 
backwards. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM. Conjunctiva 
were pink, no pallor or cyanosis of the oral mucosa.  
NECK: Supple with JVP of 6 cm.  
CARDIAC: RR, normal S1, S2. No m/r/g. 
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. Normoactive bs. No HSM or tenderness.
 EXTREMITIES: No edema. 
NEURO: a&ox3, full power in ___ bilaterally. sensation intact
 
Pertinent Results:
Labs/Studies: 

___ 05:45AM BLOOD WBC-4.5 RBC-4.26* Hgb-13.5* Hct-40.2 
MCV-94 MCH-31.7 MCHC-33.6 RDW-14.4 Plt ___
___ 12:20PM BLOOD Neuts-70.3* ___ Monos-6.8 Eos-1.5 
Baso-0.5
___ 12:20PM BLOOD ___ PTT-27.0 ___
___ 12:20PM BLOOD Glucose-168* UreaN-19 Creat-1.1 Na-139 
K-4.4 Cl-106 HCO3-24 AnGap-13
___ 12:20PM BLOOD CK(CPK)-112
___ 12:20PM BLOOD CK-MB-4
___ 12:20PM BLOOD cTropnT-<0.01
___ 07:30PM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD cTropnT-<0.01
___ 05:45AM BLOOD Calcium-9.2 Phos-3.8 Mg-1.9
___ 05:45AM BLOOD TSH-0.59
.
___ EKG: 
Sinus rhythm with A-V conduction delay and atrial premature 
beats including
a non-conducted atrial premature beat. Right bundle-branch 
block. Left axis
deviation may be due to left anterior fascicular block and/or 
prior inferior
myocardial infarction. Left ventricular hypertrophy. ST-T wave 
abnormalities
may be due to left ventricular hypertrophy or possible ischemia. 
Clinical
correlation is suggested. Since the previous tracing of ___ 
inferolateral
ST-T wave abnormalities have decreased
.
___ Echo: 
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no left 
ventricular outflow obstruction at rest or with Valsalva. Right 
ventricular chamber size and free wall motion are normal. The 
aortic arch is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Physiologic mitral 
regurgitation is seen (within normal limits). There is mild 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Pulmonary artery systolic hypertension. Dilated aortic arch. 
Compared with the prior report (images unavailable for review) 
of ___, the left ventricular cavity is now smaller with 
improved global systolic function. Pulmonary artery hypertension 
is now present. 
. 
___ CXR: 
 
PA AND LATERAL CHEST: There is no focal consolidation, and no 
effusion or
pneumothorax. Cardiac silhouette is top normal in size, with 
left ventricular
contour. The aorta is unfolded. There is no pulmonary vascular 
congestion or
edema. Degenerative changes are seen in the thoracic spine.
 
IMPRESSION: Top normal to mildly enlarged cardiac silhouette, 
with prominent
left ventricular contour. No acute cardiopulmonary process.

___ EKG: 
Sinus bradycardia with A-V conduction delay. Left atrial 
abnormality.
Right bundle-branch block. Left axis deviation may be due to 
left anterior
fascicular block and possible prior inferior myocardial 
infarction. Left
ventricular hypertrophy. ST-T wave abnormalities may be due to 
left
ventricular hypertrophy but cannot exclude ischemia. Clinical 
correlation is
suggested. Since the previous tracing of ___ atrial ectopy 
is absent.
Otherwise, no significant change.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a past medical history 
significant for DM, HTN, and dilated cardiomyopathy (EF 40-45% 
in ___ who presented after a syncopal episode in church.   
.
# Syncope: In the ED, the patient's EKG showed sinus arrhythmia 
and evidence of prior ischemia. A rhythm strip taken 20 minutes 
later was normal sinus rhythm with 1st degree AV delay. The 
patient was followed on telemetry, which was notable for  PACs 
with occasional blocked ventricular conduction and 1st degree AV 
delay. He was bradycardic with heart rates ~55 but was 
asymptomatic. A TTE was also performed, which showed mild LVH, 
normal systolic function with an EF > 55%, improved from 40-45% 
on prior study in ___. The Echo also showed pulmonary artery 
hypertension, which was a new finding.  During this admission, 
he denied dizziness, diaphoresis, chest pain, palpitations, 
shortness of breath, nausea, or vomiting. He did not have any 
further syncopal episodes. The syncope was believed to be a 
vasovagal episode given the history of precedent symptoms. The 
patient was discharged with cardiology follow-up. 
.
# Type II Diabetes Mellitus: Last A1C 6% in ___. The patient 
was given a diabetic diet, sliding scale insulin, and his home 
dose of metformin (1000 mg PO BID). His finger-stick glucose 
readings were 111-178.
.
# Hypertension: The patient was continued on his home 
medications: amlodipine 10 mg qday, hydralazine 100 mg TID, 
Imdur 240 mg qday, labetalol 100 mg BID, and lisinopril 50 mg 
qday.
. 
# The patient received SubQ heparin for DVT prophylaxis. Contact 
was with his cousin ___ ___. The patient 
remained full code during this admission. 
 
Medications on Admission:
amlodipine 10 mg Tablet daily 
hydralazine 100 mg Tablet TID
isosorbide mononitrate [Imdur] 240 mg qday
labetalol 100 mg Tablet BID
lisinopril 50 mg Tablet daily
metformin 1,000 mg Tablet BID 
timolol maleate 0.5 % Gel Forming Solution 1 drop(s) both eyes q 
AM  aspirin 325 mg Tablet, Delayed Release (E.C.) daily \
urea [CARMOL 20] 20 % Cream Apply to affected areas twice daily
 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. hydralazine 50 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours).  
3. isosorbide mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Four (4) Tablet Sustained Release 24 hr PO DAILY (Daily).  
4. labetalol 100 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. lisinopril 20 mg Tablet Sig: 2.5 Tablets PO DAILY (Daily).  
6. metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
7. timolol maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
8. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Syncope
. 
Secondary: 
HTN
DM
Venous Stasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure caring for ___ at ___ 
were admitted because of a syncopal episode. We watched your 
heart rate overnight and did not see anything concerning. Blood 
tests showed that there had been no heart attack that caused the 
episode. It is likely that this was a vasovagal episode, or a 
"fainting episode" that was caused by a combination of factors: 
eating very little in the morning, feeling warm, and blood 
pressure medications. We also performed an ultrasound of your 
heart, which showed improved function since your Echo in ___. 
___ will follow-up with Dr. ___, to discuss 
the Echo results and also the new finding of pulmonary artery 
hypertension. 
. 
We made no changes to your medications. 
. 
Your follow-up appointments are listed below. 
 
Followup Instructions:
___